US07696200B2
4-{[4-(3-Chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-fluoro-benzoic acid, MS (ISP): m/e=489.1 (M−H), was prepared as described for example 21, steps 1 to 8. Step 7 was performed using 3-chloro-benzenesulfonyl chloride and yielded 4-{[4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-fluoro-benzoic acid ethyl ester, which was hydrolyzed in step 8.

reactant | 4-{[4-(3-Chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-fluoro-benzoic acid | ClC=1C=C(C=CC1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)NC2=CC(=C(C(=O)O)C=C2)F | C22H16ClFN2O6S
reactant | 3-chloro-benzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-{[4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-fluoro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=CC(=CC=C2)Cl)C1)F)=O | C24H20ClFN2O6S
